US08039469B2
A mixture of 4,4′-(6-chloro-1,3,5-triazine-2,4-diyl)dimorpholine (285 mg, 1.0 mmol), 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid. (315 mg, 1.2 mmol) and tetrakis (triphenylphosphine) palladium (0) (58 mg, 0.05 mmol) in 2M sodium carbonate aqueous solution (3 mL, 8 mmol) and 20 mL of DME was stirred at 80° C. for 2 hr. Then the reaction mixture was diluted with 50 mL of ethyl acetate and extracted with 1 N NaOH (50 mL, three times)). The combined aqueous layers were neutralized to pH=6. Then the aqueous solution was extracted with ethyl acetate (50 mL, three times). The combined organic layers were washed with saturated sodium carbonate and brine. Then the organic layer was dried over anhydrous sodium sulfate and concentrated to give 2-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)acetic acid (68 mg, 18% yield). HPLC: Rt=2.04 min; MS 386 [M+H].

reactant | 4,4′-(6-chloro-1,3,5-triazine-2,4-diyl)dimorpholine | 1.0 mmol, 285 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C11H16ClN5O2
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)O)C | C14H19BO4
reactant | sodium carbonate | 8 mmol, 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.05 mmol, 58 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)acetic acid | 68 mg, 18% yield | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)CC(=O)O | C19H23N5O4
